US07335658B2
4-PHENYL-N-{6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZIN-3-YL}BUTYRAMIDE
Following the procedure of Example 1, making variations only as required to use 4-phenylbutyric acid in place of 4-methylpentanoic acid to react with [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)methanone, the title compound was obtained as a white powder (9% yield). 1H NMR (300 MHz, CDCl3) δ 9.13, 8.36, 7.74, 7.62, 7.56, 7.36, 7.28-7.25, 7.19-7.16, 7.05, 4.03-3.98, 3.93-3.88, 3.69-3.60, 3.54-3.52, 3.33-3.31, 2.70, 2.52, 2.06.

reactant | 4-phenylbutyric acid | C1(=CC=CC=C1)CCCC(=O)O | C10H12O2
reactant | [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)methanone | NC1=CC=C(N=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C16H16F3N5O
product | 4-PHENYL-N-{6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZIN-3-YL}BUTYRAMIDE | C1(=CC=CC=C1)CCCC(=O)NC=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C26H26F3N5O2
